US07470723B2
MnO2 (18 g, 210 mmol, 5 equivalent) was added to a stirred solution of the crude (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanol in CH2Cl2 (100 mL). The reaction mixture was stirred at room temperature for 2 days and MnO2 [6 equivalent (3×2 eq.)] was added during this period of time. The reaction mixture was then filtered through celite and washed with CH2Cl2 (3×60 mL). Removal of solvent from the filtrate and chromatography (Silica Gel) gave (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanone as a solid (8.74 g, 73% yield): 1H NMR (CDCl3) δ 1.47-1.53 (t, J=7.1 Hz, 3H, CH3), 3.97 (s, 3H, OCH3), 4.06 (s, 3H, OCH3), 4.13-4.21 (q, J=6.9, 14.0 Hz, 2H, CH2), 6.91-6.94 (d, J=8.3 Hz, 1H, Ar), 7.17-7.21 (d, J=8.7 Hz, 1H, Ar), 7.30-7.35 (dd, J=2.1, 8.5 Hz, 1H, Ar), 7.42 (d, J=1.9 Hz, 1H, Ar), 8.03-8.07 (dd, J=2.3, 8.7 Hz, 1H, Ar), 8.29 (d, J=2.0 Hz, 1H, Ar).

reactant | (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanol | C(C)OC=1C=C(C=CC1OC)C(O)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C17H19NO6
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 210 mmol, 18 g, 5 equivalent | O=[Mn]=O
catalyst | MnO2 | 6 equivalent | O=[Mn]=O
product | (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanone | 8.74 g, 73% yield | C(C)OC=1C=C(C=CC1OC)C(=O)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C17H17NO6
